US04864031
Histidine.
HCl.H2O: D,L-His.HCl.H2O (3.2 g) and the appropriate polymer were slurried in water (5 ml) and the slurry was heated to complete dissolution. The hot solution was filtered and allowed to stand at 50° C. for 20 hrs without agitation. The crystals were collected by filtration and the enantiomeric excess was determined. The results are summarized in Table VI.

reactant | HCl.H2O | Cl.O
reactant | D,L-His.HCl.H2O | 3.2 g | NC(CC1=CNC=N1)C(=O)O.Cl.O
solvent | water | 5 ml | O | H2O
product | Histidine | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
